US06069145
Sodium azide (924 mg) was added to a solution of (5R)-3-(3-fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyloxymethyl)oxazolidin-2-one (950 mg) in dry DMF (50 ml), and the mixture heated at 75° C. for 2 hours. The mixture was diluted with ethyl acetate and washed with three portions of water. The aqueous layer was then back-extracted with two portions of ethyl acetate, and the combined organic extracts dried over MgSO4. Evaporation gave (5R)-5-azidomethyl-3-(3-fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)oxazolidin-2-one product which was used without further purification.

reactant | Sodium azide | 924 mg | [N-]=[N+]=[N-].[Na+]
reactant | (5R)-3-(3-fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyloxymethyl)oxazolidin-2-one | 950 mg | FC=1C=C(C=CC1N1CC(N(CC1)C)=O)N1C(O[C@H](C1)COS(=O)(=O)C)=O | C16H20FN3O6S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5R)-5-azidomethyl-3-(3-fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)oxazolidin-2-one | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CC(N(CC1)C)=O)F | C15H17FN6O3
